US05130309
3-(4-Aminophenoxy)-1-ethylazetidine
A solution of 1-ethyl-3-(4-nitrophenoxy)azetidine in ethanol is subjected to catalytic reduction using palladium on carbon catalyst using standard procedures to obtain the title compound.

reactant | 1-ethyl-3-(4-nitrophenoxy)azetidine | C(C)N1CC(C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H14N2O3
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 3-(4-Aminophenoxy)-1-ethylazetidine | NC1=CC=C(OC2CN(C2)CC)C=C1 | C11H16N2O
